US07687495B2
j) 6-Bromomethyl-4-(3-methoxy-propyl)-4H-benzo[1,4]oxazin-3-one
To a solution of 74.0 g of 6-hydroxymethyl-4-(3-methoxy-propyl)-4H-benzo[1,4]oxazin-3-one (from example 1 g) in 600 ml of chloroform are added 58 ml of bromotrimethylsilane at room temperature. The reaction mixture is stirred for 30 minutes and concentrated under reduced pressure. The residue is purified by flash chromatography (SiO2 60 F) to afford the title compound as an off white solid. Rf=0.46 (EtOAc-heptane 1:1); Rt=4.03.

reactant | 6-hydroxymethyl-4-(3-methoxy-propyl)-4H-benzo[1,4]oxazin-3-one | 74.0 g | OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H17NO4
reactant | bromotrimethylsilane | 58 ml | Br[Si](C)(C)C | C3H9BrSi
solvent | chloroform | 600 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-Bromomethyl-4-(3-methoxy-propyl)-4H-benzo[1,4]oxazin-3-one | BrCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16BrNO3
